US04937268
N-[3-[2-(3-Phenoxypropoxy)ethoxy]propyl]benzenemethanamine
[3-[2-(3-Bromopropoxy)ethoxy]propoxy]benzene (1.6 g) was added dropwise with stirring to benzylamine (2.70 g) at 130° under nitrogen. The solution was stirred at 130° under nitrogen for 2 h, cooled and diluted with ethyl acetate (150 ml), and washed with 2N hydrochloric acid (100 ml). The aqueous phase was re-extracted with ethyl acetate (2×100 ml) and the combined organic phases washed with 8% sodium bicarbonate solution (150 ml), dried and evaporated in vacuo to give the title compound (1.21 g) as an oil. T.l.c. (System E 40:10:1) Rf 0.52

reactant | [3-[2-(3-Bromopropoxy)ethoxy]propoxy]benzene | 1.6 g | BrCCCOCCOCCCOC1=CC=CC=C1 | C14H21BrO3
reactant | benzylamine | 2.70 g | C(C1=CC=CC=C1)N | C7H9N
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-[2-(3-Phenoxypropoxy)ethoxy]propyl]benzenemethanamine | 1.21 g | O(C1=CC=CC=C1)CCCOCCOCCCNCC1=CC=CC=C1 | C21H29NO3
